US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(3-Chlorophenyl)cyclopropyl)amino)-2-methyl-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(3-chlorophenyl)cyclopropyl)amino)-2-methyl-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (280 mg, 0.332 mmol) in DCM (6 mL) was added TFA (3 mL, 0.332 mmol). The reaction mixture was stirred at rt for 2 hr and evaporated in vacuo to afford crude product. This was diluted with DCM (30 mL), and washed with water, saturated NaHCO3, water, saturated NH4CI and then water. The organic layer was dried over Na2SO4, filtered and concentrated to obtain a residue, which was dissolved into MeCN— H2O (1:2, 9 mL) and freeze-dried to give the title compound (130 mg, 48%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ=12.16 (br. s., 1H), 8.62 (s, 1H), 7.34-7.17 (m, 2H), 7.14 (s, 1H), 7.05 (d, J=7.5 Hz, 1H), 6.57 (s, 1H), 4.40 (dd, J=4.4, 10.9 Hz, 1H), 3.23-3.08 (m, 1H), 2.83-0.62 (m, 57H); LC/MS: m/z calculated 787.5. Found 788.2 (M+1)+.

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(3-chlorophenyl)cyclopropyl)amino)-2-methyl-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 0.332 mmol, 280 mg | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C(\C(=O)NC5(CC5)C5=CC(=CC=C5)Cl)/C)C)C)(C)C)C | C52H74ClNO6
reactant | TFA | 0.332 mmol, 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | MeCN H2O | 9 mL | CC#N.O
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((1-(3-Chlorophenyl)cyclopropyl)amino)-2-methyl-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 130 mg, 48% | ClC=1C=C(C=CC1)C1(CC1)NC(/C(=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C)/C)=O | C48H66ClNO6
